US04112091
1-Methyl-4-(3,3,3-trichloro-2-hydroxypropyl) piperazine (process variant b))
N-methyl piperazine (2 g) is dissolved in 80 ml chloroform, and mixed with a solution of 3.22 g 3,3,3-trichloropropylene oxide in 20 ml chloroform. The mixture is allowed to stand at room temperature for 6 days. The chloroform is removed by evaporation, and ether is added to the residue, which is then collected by filtration, washed with ether and dried at room temperature under water pump vacuum, to give the heading compound, m.p. 165°-167° C.

reactant | N-methyl piperazine | 2 g | CN1CCNCC1 | C5H12N2
reactant | 3,3,3-trichloropropylene oxide | 3.22 g | ClC(C1CO1)(Cl)Cl | C3H3Cl3O
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Methyl-4-(3,3,3-trichloro-2-hydroxypropyl) piperazine | CN1CCN(CC1)CC(C(Cl)(Cl)Cl)O | C8H15Cl3N2O
